US07129239B2
Preparation of Intermediate 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt (I-(13A-9)f)
Alternatively, a solution of 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide (I-2A-1g; 9.2 g, 30 mmol) in methanol (150 ml) at 0° C. was added 1 M HCl in ether (75 ml, 75 mmol). The mixture was concentrated to ⅔ volume to remove the ether, in vacuo, and then methanol was added to bring the reaction volume to 150 mL. This was repeated a second time. After the addition of 20% Pd(OH)2 on carbon (50% water; 2.3 g), the mixture was placed on a Parr® shaker and then reduced (45 psi H2) at room temperature overnight. The mixture was diluted with methanol (350 ml) filtered through Celite®, rinsing with additional methanol. The methanol fractions were filtered through a 0.45 μm filter disk, and then concentrated under reduced pressure to give a solid residue that was triturated from diethyl ether, collected by vacuum filtration, washed with ether and then dried, in vacuo, to afford I-(13A-9)f (6.3 g, 91%) as a tan solid.

reactant | 1-benzhydryl-3-ethylaminoazetidine-3-carboxylic acid amide | 30 mmol, 9.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NCC | C19H23N3O
reactant | HCl | 1 M | Cl | ClH
reactant | ether | 75 mmol, 75 ml | CCOCC | C4H10O
solvent | methanol | 150 ml | CO | CH4O
product | 3-Ethylaminoazetidine-3-carboxylic Acid Amide, Hydrochloride Salt | Cl.C(C)NC1(CNC1)C(=O)N | InChI=1S/C6H13N3O.ClH/c1-2-9-6(5(7)10)3-8-4-6;/h8-9H,2-4H2,1H3,(H2,7,10);1H
